Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ ___ speaking F with CAD c/b STEMI and
NSTEMIs, HFrEF, COPD, asthma,  dementia, and recent prolonged
admission for cholecystitis and hyponatremia ultimately
discharged home on hospice who now presents with cough and
shortness of breath.

Per ED note,
Today when she awakened she appeared to have acute SOB and cough
RA sat 91% on EMS arrival. HR 144 on arrival, BP 170/100 for EMS

- In the ED, initial vitals were:  
Pain ___, T 98.5, HR 125, BP 100/86, RR 32, O2 100%
Nonrebreather

- Exam was notable for:  
Constitutional: Tachypnea, respiratory distress
HEENT: Normocephalic, atraumatic, Extraocular muscles intact
Resp: Tachypnea, bilateral wheezing and rhonchi
Cardiovascular: Regular rate and rhythm, normal ___ and ___ 
heart
sounds
Abd: Soft, Nontender, mildly distended.
GU: No costovertebral angle tenderness
MSK: No deformity or edema
Skin: No rash, Warm and dry
Neuro: Intermittently responsive. Moving all extremities.
Psych: Unable to assess

- Labs were notable for:  
WBC 8.6, Hb 12.8, Plt 231
AST 68, ALT 25, Alk Phos 140
BNP 5046
Na 129, Cr 1.4, Glucose 334
Lactate 3.1 > 3.0
Trop 0.06 > 

- Studies were notable for:
CXR showed
1. Interval increase in bibasilar opacification suggestive of
increasing atelectasis.
2. No pneumonia or acute cardiopulmonary process.

- The patient was given:  
___ 19:32 IH Ipratropium-Albuterol Neb 1 NEB 
___ 19:32 IV CefePIME  
___ 19:32 NEB Ipratropium-Albuterol Neb 1 NEB 
___ 19:32 IVF 500 mL NS  
___ 20:36 IV Azithromycin 500mg 
___ 20:38 IV CefePIME 2 g 
___ 21:28 IV Vancomycin 1000mg 

On arrival to the floor, patient is accompanied by her daughter
___ and confirms the above history. 

Patient reports she has been more short of breath, worse when
lying down and overnight. Currently she feels better.

___ notes that she woke up suddenly between ___ very short
of breath and was screaming out. They gave her the nebulizers at
home but it did not help. They called the hospice nurse, but the
nurse could not come until morning. So they called for an
ambulance to bring her to the hospital. ___ reports that her
mother has been having worsening dyspnea especially at night. 
She
has also been very wheezy. She has a chronic cough that has been
worse. 

Patient and daughter deny fever, chills, chest pain, abdominal
pain. She does not have daily BMs. They think her abdomen is
improved; it used to be bigger and this is better. They have
oxygen at home but she does not use it regularly.

___ confirms that their goal is to make her more comfortable
and help her shortness of breath. They are OK with blood draws.
They do not want ICU level care, chest compressions, shocks, or
intubation.

Recent admission ___ for epigastric pain when she was found
to have cholecystitis. Given she is a poor surgical candidate 
she
was stabilized on and discharged on chronic antibiotics. Given
multiple comorbidities she was discharged to home hospice.

ROS as above, otherwise negative.
 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Gen: appears uncomfortable
CV: RRR, normal s1/s2, no murmurs
JVP: difficult to discern because patient breathing hard
Pulm: diffuse crackles, occasional wheezing
GI: soft but distended, nontender
Ext: warm, well perfused, no edema 

DISCHARGE PHYSICAL EXAM:
=========================
Gen: Sitting in bed eating breakfast with daughter at bedside, 
in
no apparent distress. 
CV: RRR, normal s1/s2, no murmurs
Pulm: diffuse crackles, occasional wheezing
GI: soft but distended, nontender
Ext: warm, well perfused, no edema 

 
Pertinent Results:
ADMISSION LABS:
===================

___ 07:10PM BLOOD WBC-8.6 RBC-4.58 Hgb-12.8 Hct-39.5 MCV-86 
MCH-27.9 MCHC-32.4 RDW-15.2 RDWSD-47.4* Plt ___
___ 07:10PM BLOOD Glucose-334* UreaN-22* Creat-1.4* Na-129* 
K-6.2* Cl-89* HCO3-28 AnGap-12
___ 07:10PM BLOOD ALT-25 AST-68* CK(CPK)-94 AlkPhos-140* 
TotBili-0.3
___ 07:10PM BLOOD Albumin-3.8 Calcium-9.3 Phos-4.9* Mg-1.9
___ 07:16PM BLOOD Lactate-3.1* K-4.3

REPORTS
========
___ CXR
FINDINGS:  
  
Compared to the prior chest radiograph, there is increased 
bibasilar 
opacification.  There is no focal consolidation, pleural 
effusion, or 
pneumothorax.  Heart size is moderately enlarged, similar to 
prior.  Chronic 
right rib deformities are unchanged. 
  
IMPRESSION:  
  
1.  Interval increase in bibasilar opacification suggestive of 
increasing 
atelectasis. 
2.  No pneumonia or acute cardiopulmonary process. 

MICRO:
======

___ 11:52PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-300* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 11:52PM URINE RBC-1 WBC-7* Bacteri-FEW* Yeast-NONE 
Epi-1

___ 11:52 pm URINE      CATHETER. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE LABS:
=================
___ 05:10AM BLOOD Glucose-247* UreaN-22* Creat-1.3* Na-131* 
K-3.8 Cl-92* HCO3-31 AnGap-8*
 
Brief Hospital Course:
SUMMARY: 
==================== 
Ms. ___ is a ___ with CAD c/b STEMI and NSTEMIs, COPD, 
dementia, and recent prolonged admission for cholecystitis and 
hyponatremia ultimately discharged home on hospice who now
presents with cough and shortness of breath, found to be in the 
setting of asthma exacerbation and atelectasis. Her respiratory 
status improved to baseline with 1 dose of IV diuresis and 
nebulizers. She was discharged back home to hospice. 

TRANSITIONAL ISSUES:
====================
[ ] Please continue to evaluate whether patient and family are 
getting enough support at home. During this admission, patient 
was evaluated by CM and found to have no further needs (has home 
hospice, ___ 2x per week, and niece as official caretaker 
receiving financial compensation) but would continue to discuss. 
Please also evaluate whether hospice is the right choice for 
family, given family's wishes for patient to be hospitalized if 
needed. 
[ ] Patient provided with script for tiotropium at discharge 
given history of COPD, not on LAMA at home. 

# CODE: DNR/DNI confirmed
# CONTACT: Daughters ___ ___

ACUTE/ACTIVE ISSUES: 
==================== 
# Cough # Dyspnea # Hypoxia
# Acute HFrEF Exacerbation
# Asthma exacerbation 
Low suspicion for pneumonia given no fever, no leukocytosis, no
productive cough. There is also likely an asthma exacerbation
component given wheezing, with all of this worsened by
atelectasis. CXR not consistent with significant volume. She 
received 1 dose of IV diuretics and was subsequently resumed on 
her home diuretic. She received nebulizers and pulmonary toilet 
(chest ___, incentive spirometry) and her respiratory status 
improved to baseline. She was prescribed Spiriva at discharge 
given history of COPD and not on long-acting LAMA at home. 

# Goals of Care
Per discussion with daughter ___, their goal of
comfort-focused care has not changed despite hospital transfer.
They were unable to get her comfortable at home, which is why
they brought her in. They confirmed OK with antibiotics, blood
draws, NOT OK with ICU, and still DNR/DNI. 

# ___ (baseline Cr 1.1)
Cr 1.4 on arrival, considering prerenal (daughter reports she 
has
not eaten much in 2 days) vs cardiorenal. Received 500cc NS in
ED. Cr was 1.3 at baseline. 

# Troponemia 
Likely demand ischemia iso HFrEF exacerbation. No changes on EKG
and no chest pain. 

CHRONIC/STABLE ISSUES: 
====================== 
# h/o cholecystitis
Last admission presented with pain, leukocytosis, treated with
ceftriaxone and metronidazole but after finishing course, she 
had
increased pain again. Given poor surgical candidate (frailty and
CAD history) she was started on low dose chronic augmentin. Perc
drainage was considered as alternative to surgery but this
decision was deferred due to clinical improvement and overall
goals of care. Continued home amoxicillin-clavulanic acid ___ 
PO Q12H.

# COPD # Asthma
Advair previously discontinued ___ due to concerns patient 
was
not using device properly and not getting adequate benefit. Of
note CXR ___ showed severe tracheal stenosis concerning for
tracheomalacia. There was discussion to consider bronchoscopy 
for
official diagnosis, but no recommended due to likely need for
intubation and low likelihood of successful extubation. She was
therefore resumed on her home ICS and prescribed saline and
albuterol nebulizers for comfort. She was provided with 
prescription for tiotropium inhaler at discharge. 

# Atrial fibrillation
Outpatient cardiologist discontinued apixaban last year. Last
admission she had intermittent rates to 150s iso agitation and
dyspnea that resolved with metoprolol 200mg daily. This
medication was discontinued however on discharge to minimize
nonessential meds. 

# Hypertension
Last admission, Losartan was discontinued iso ___ and metoprolol
was discontinued as above. BP well controlled this 
hospitalization.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN wheezing 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. LORazepam Oral Solution 0.5 mg PO Q8H:PRN anxiety 
4. Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Third Line 
5. Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 1 mg 
PO Q4H:PRN Pain - Moderate 
6. Morphine Sulfate ___ 15 mg PO Q6H:PRN Pain - Severe 
7. Sodium Chloride 3% Inhalation Soln 15 mL NEB BID:PRN sputum 
8. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
9. Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H 
10. Budesonide Nasal Inhaler  (*NF*) 90 mcg Other TID 
11. Docusate Sodium 100 mg PO BID 
12. Furosemide 80 mg PO DAILY 
13. Gabapentin 300 mg PO BID 
14. ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) BID 
15. Mirtazapine 15 mg PO QHS 
16. Omeprazole 40 mg PO DAILY 
17. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
18. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing 
19. Senna 8.6 mg PO QHS:PRN Constipation - First Line 

 
Discharge Medications:
1.  Tiotropium Bromide 1 CAP IH DAILY COPD 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap 
inhalation once a day Disp #*30 Capsule Refills:*0 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN wheezing  
4.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
5.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H  
6.  Budesonide Nasal Inhaler  (*NF*) 90 mcg Other TID  
7.  Docusate Sodium 100 mg PO BID  
8.  Furosemide 80 mg PO DAILY  
9.  Gabapentin 300 mg PO BID  
10.  ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) BID  
11.  LORazepam Oral Solution 0.5 mg PO Q8H:PRN anxiety  
12.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Third Line 
 
13.  Mirtazapine 15 mg PO QHS  
14.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 1 mg 
PO Q4H:PRN Pain - Moderate  
15.  Morphine Sulfate ___ 15 mg PO Q6H:PRN Pain - Severe  
16.  Omeprazole 40 mg PO DAILY  
17.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
18.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing  
19.  Senna 8.6 mg PO QHS:PRN Constipation - First Line  
20.  Sodium Chloride 3% Inhalation Soln 15 mL NEB BID:PRN sputum 
 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were feeling short of breath at home.   

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You received medication to help you pee off extra fluid in 
your lungs. You also received inhalers to help your breathing.
- Your breathing improved and you were safe to return home with 
hospice care. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___